US05914328
93a 3,5-dinitropridine
A sample of 2-chloro-3,5-dinitropyridine is dissolved in methanol, hydrazine is added, and the reaction mixture is stirred for 16 hours. The solvent is removed, the residue is dissolved in water, silver acetate is added, and the mixture is heated at reflux for 3 hours. The solution is adjusted to a basic pH, and product is extracted with CHCl3.

reactant | 2-chloro-3,5-dinitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | hydrazine | NN | H4N2
solvent | methanol | CO | CH4O
product | 3,5-dinitropridine | [N+](=O)([O-])C=1C=NC=C(C1)[N+](=O)[O-] | C5H3N3O4
